US08293897B2
To a mixture of benzyl 3-(tetrahydro-2H-pyran-2-yloxy)propanoate (150 mg, 0.568 mmol) in 2 mL of THF was added Ti(Oi-Pr)4 (0.18 mL, 0.568 mmol, d=0.955 g/L, Ardrich) via a syringe under nitrogen at rt. After stirring at 18° C. for 30 min, EtMgBr (0.48 mL, 1.42 mmol, 3M ether solution, Aldrich) was added via a syringe pump over 2 hrs. The reaction was quenched with 5 mL of water, after benzyl 3-(tetrahydro-2H-pyran-2-yloxy)propanoate was consumed completely (monitored by TLC). The mixture was filtered through a celite pad and the filtrate was extracted with ethyl acetate (30 mL×3). The combined organic phases were dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (10:1 (v/v) petroleum ether/EtOAc) to afford 1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)cyclopropanol as colorless oil (60 mg, 57%).

reactant | benzyl 3-(tetrahydro-2H-pyran-2-yloxy)propanoate | 0.568 mmol, 150 mg | O1C(CCCC1)OCCC(=O)OCC1=CC=CC=C1 | C15H20O4
reactant | EtMgBr | 1.42 mmol, 3M, 0.48 mL | CC[Mg+].[Br-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)cyclopropanol | 60 mg, 57% | O1C(CCCC1)OCCC1(CC1)O | C10H18O3
